US07935697B2
In another aspect, the invention relates to the process for preparing 2-(5-(4-(2-morpholinoethoxy)phenyl)pyridin-2-yl)-N-benzylacetamide comprising the steps of coupling 4-(2-(4-bromophenoxy)ethyl)morpholine with 6-fluoropyridin-3-yl-3-boronic acid to yield 4-(2-(4-(6-fluoropyridin-3-yl)phenoxy)ethyl)morpholine; reacting 4-(2-(4-(6-fluoropyridin-3-yl)phenoxy)ethyl)morpholine with acetonitrile to yield 2-(5-(4-(2-morpholinoethoxy)phenyl)pyridin-2-yl)acetonitrile; converting 2-(5-(4-(2-morpholinoethoxy)phenyl)pyridin-2-yl)acetonitrile to methyl 2-(5-(4-(2-morpholinoethoxy)phenyl)pyridin-2-yl)acetate; and reacting methyl 2-(5-(4-(2-morpholinoethoxy)phenyl)pyridin-2-yl)acetate with benzylamine to yield 2-(5-(4-(2-morpholinoethoxy)phenyl)pyridin-2-yl)-N-benzylacetamide.

reactant | 2-(5-(4-(2-morpholinoethoxy)phenyl)pyridin-2-yl)-N-benzylacetamide | O1CCN(CC1)CCOC1=CC=C(C=C1)C=1C=CC(=NC1)CC(=O)NCC1=CC=CC=C1 | C26H29N3O3
reactant | 4-(2-(4-bromophenoxy)ethyl)morpholine | BrC1=CC=C(OCCN2CCOCC2)C=C1 | C12H16BrNO2
reactant | 6-fluoropyridin-3-yl-3-boronic acid | B(C1=CN=C(C=C1)F)(O)O | C5H5BFNO2
product | 4-(2-(4-(6-fluoropyridin-3-yl)phenoxy)ethyl)morpholine | FC1=CC=C(C=N1)C1=CC=C(OCCN2CCOCC2)C=C1 | C17H19FN2O2
